US04786644
A solution of 21.98 g of 2-amino-5-bromopyridine and 25.0 g of 1,2-dihydro-4-hydroxy-1-phenyl-3-quinolinecarboxylic acid, ethyl ester in 250 ml of toluene was refluxed for 24 hours in a soxhlet apparatus containing 20 g of 4 Å molecular sieves. Evaporation of the volatiles afforded a residue which was purified by means of high pressure liquid chromatography (silica gel: dichloromethane as the eluent). The resultant solution was degassed and evaporated to yield 23.56 g (66%) of N-(5-bromo-2-pyridyl)-1,2-dihydro-4-hydroxy-1-phenyl-3-quinolinecarboxamide, m.p. 153°-154° C.

reactant | 2-amino-5-bromopyridine | 21.98 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | 1,2-dihydro-4-hydroxy-1-phenyl-3-quinolinecarboxylic acid, ethyl ester | 25.0 g | OC1=C(CN(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)OCC | C18H17NO3
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | N-(5-bromo-2-pyridyl)-1,2-dihydro-4-hydroxy-1-phenyl-3-quinolinecarboxamide | 23.56 g, 66% | BrC=1C=CC(=NC1)NC(=O)C=1CN(C2=CC=CC=C2C1O)C1=CC=CC=C1 | C21H16BrN3O2
